US09119868B2
Step 5: 6-(N-(4-Bromo-3-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Chloro(methoxy)methane (0.201 mL, 2.65 mmol) was added dropwise to a solution of 6-(N-(4-bromo-3-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.724 g, 1.06 mmol) and DIEA (0.555 mL, 3.18 mmol) in tetrahydrofuran (10 mL) under N2. The mixture was heated to 50° C. overnight. Cooled down to room temperature and aqueous NaHCO3 was added, the aqueous layer was extracted with EtOAc (2×). The organic phase was washed with brine, dried over Na2SO4. The crude residue was purified by chromatography on silica gel eluted with 0-50% EtOAC in hexane to give the product (0.65 g, 97%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.90 (dd, J=8.78, 5.27 Hz, 2H) 7.64 (s, 1H) 7.57 (d, J=2.73 Hz, 1H) 7.50 (d, J=8.78 Hz, 1H) 7.47 (s, 1H) 7.18-7.26 (m, 3H) 5.79 (d, J=4.49 Hz, 1H) 4.74 (s, 2H) 4.61 (s, 2H) 3.39 (s, 3H) 3.25 (s, 3H) 3.01 (d, J=4.88 Hz, 3H) 2.08-2.18 (m, 1H) 0.75-1.14 (m, 3H) 0.58 (br. s., 1H). LCMS (m/z, ES+)=633 (M+H+).

reactant | Chloro(methoxy)methane | 2.65 mmol, 0.201 mL | ClCOC | C2H5ClO
reactant | 6-(N-(4-bromo-3-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.06 mmol, 0.724 g | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CO | C27H24BrFN2O5S
reactant | DIEA | 3.18 mmol, 0.555 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-(N-(4-Bromo-3-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.65 g, 97% | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)COCOC | C29H28BrFN2O6S
